*$
* UCC27517
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warrenties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: UCC27517
* Date: 15SEP2015
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: NA
* EVM Users Guide: NA
* Datasheet: SLUSAY4D – MARCH 2012–REVISED DECEMBER 2014
*
* Model Version: Final 1.10
*
*****************************************************************************
*
* Updates:
*
* Final 1.10
*< Made this change to the model >
*       1. Improved output rise & fall times vs Supply Voltage as per datasheet Figure 17 & 18
*	    2. Improved Propagation delays vs Supply Voltage as per datasheet Figure 16
*
* Final 1.00
* Release to Web
*
*****************************************************************************
.SUBCKT UCC27517_TRANS IN+ IN- GND OUT VDD
E_U2_E1         U2_N16775419 OUT VALUE { IF(V(DRV_G, 0) > 0.5, 5, -5) }
E_U2_E2         OUT U2_N16775471 VALUE { IF(V(DRV_G, 0) > 0.5, -5, 5) }
E_U2_E4         U2_N16775355 0 TABLE { V(VDD, 0) } 
+ ( (4.5,3.69) (6.5,2.116)(10,1.15)(12,1.09) (16,0.83)(18, 0.7)  )
M_U2_M1         U2_N16775481 U2_N16775447 OUT OUT NMOS01           
E_U2_E3         U2_N16775879 0 TABLE { V(VDD, 0) } 
+ ( (4.5,0.837) (6.5,0.735)(10,0.55)(12,0.4) (16,0.2)(18,0.1)  )
C_U2_C6         OUT U2_N16775477  10p  
C_U2_C1         U2_N16775447 U2_N16775481  5p  
X_U2_U8         U2_N16775683 GND U2_N16775879 0 RVAR PARAMS:  RREF=1
C_U2_C2         U2_N16775683 U2_N16775477  5p  
R_U2_R1         U2_N16775419 U2_N16775447  20  
C_U2_C3         OUT U2_N16775447  10p  
R_U2_R2         U2_N16775471 U2_N16775477  20  
M_U2_M2         U2_N16775683 U2_N16775477 OUT OUT PMOS01           
C_U2_C5         OUT VDD  10pF  
X_U2_U7         VDD U2_N16775481 U2_N16775355 0 RVAR PARAMS:  RREF=1
C_U2_C4         GND OUT  10pF  
V_U3_V5         U3_N14683173 0 1Vdc
X_U3_U43         U3_N14683247 DRV_G BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
E_U3_ABM4         U3_N14683241 0 VALUE { IF(V(ON_INT) >=0.5, V(VDD),0)    }
X_U3_U44         ON_INT DRV_G U3_N14683147 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_U3_V4         U3_N14683887 0 1Vdc
G_U3_G1         U3_N14683173 U3_N14683247 TABLE { V(U3_N14683221, 0) } 
+ ( (0,0)(4.5,48m)(5,52m)6,58m)(8,63m)(10,68m)(12,75m)(18,100m) )
X_U3_U48         0 U3_N14683247 d_d1 PARAMS:
X_U3_U47         U3_N14683247 U3_N14683173 d_d1 PARAMS:
C_U3_C3         0 U3_N14683221  1n  
X_U3_U46         DRV_G ON_INT U3_N14683159 NOR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U3_R3         U3_N14683301 U3_N14683281  1 TC=0,0 
X_U3_S2    U3_N14683147 0 U3_N14683887 U3_N14683247 TON_TOFF_U3_S2 
G_U3_G2         U3_N14683247 0 TABLE { V(U3_N14683281, 0) } 
+ ( (0,0)(4.5,43m)(5,45m)(6,52m)(8,58m)(10,60m)(12,70m)(18,70m) )
C_U3_C4         0 U3_N14683281  1n  
C_U3_C1         U3_N14683247 0  1n IC=0 
E_U3_ABM5         U3_N14683301 0 VALUE { IF(V(ON_INT) <0.5, V(VDD),0)    }
X_U3_S1    U3_N14683159 0 U3_N14683247 0 TON_TOFF_U3_S1 
R_U3_R2         U3_N14683241 U3_N14683221  1 TC=0,0 
R_U1_R1         VDD IN-  200k  
R_U1_R2         IN+ GND  230k  
X_U1_U4         U1_UVLO_VDD U1_INP_NEG U1_INP_POS ON_INT AND3
V_U1_V1         U1_N231824 GND 4.2Vdc
X_U1_U3         U1_INP_POS IN+ U1_N231812 COMP PARAMS: VHYS=1.0
X_U1_U6         U1_UVLO_VDD VDD U1_N231824 COMP PARAMS: VHYS=0.3
X_U1_U7         U1_INP_NEG IN- U1_N231828 COMP_INV PARAMS: VHYS=1.0
V_U1_V2         U1_N231828 GND 2.2Vdc
V_U1_V3         U1_N231812 GND 2.2Vdc
.ENDS UCC27517_TRANS
*$
.SUBCKT TON_TOFF_U3_S2 1 2 3 4  
S_U3_S2         3 4 1 2 _U3_S2
RS_U3_S2         1 2 1G
.MODEL         _U3_S2 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ENDS TON_TOFF_U3_S2
*$
.SUBCKT TON_TOFF_U3_S1 1 2 3 4  
S_U3_S1         3 4 1 2 _U3_S1
RS_U3_S1         1 2 1G
.MODEL         _U3_S1 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ENDS TON_TOFF_U3_S1
*$
.MODEL NMOS01 NMOS
+ VTO     = 2
+ KP      = 0.889
+ LAMBDA  = 0.001
*$
.MODEL PMOS01 PMOS
+ VTO = -2
+ KP = 0.889
+ LAMBDA = 0.001
*$
.MODEL PMOS02 PMOS
+ VTO     = -2
+ KP      = 1.778
+ LAMBDA  = 0.001
*$
.SUBCKT COMP VOUT VINP VINN PARAMS: VHYS = 0.05 
E1 YINT 0 VALUE {IF(V(VINP) + V(VOUT)*VHYS > V(VINN), 1, 0)}
R1 YINT VOUT 1
C1 VOUT 0 1n
.ENDS COMP
*$
.SUBCKT COMP_INV VOUT VINP VINN PARAMS: VHYS = 0.05 
E1 YINT 0 VALUE {IF(V(VINP) + (1 - V(VOUT))*VHYS > V(VINN), 0, 1)}
R1 YINT VOUT 1
C1 VOUT 0 1n
.ENDS COMP_INV
*$
.SUBCKT AND3 A B C Y
E1 YINT 0 VALUE {
+ IF(V(A) > 0.5  &  
+ V(B) > 0.5 &
+ V(C) > 0.5, 1, 0)}
R1 YINT Y 1
C1 Y 0 1n
.ENDS AND3 
*$
.SUBCKT POWERMOS G D S PARAMS: RDSON=16m Ciss=1375p Crss=70p Coss=340p VSP=3.5 RG=1
* This is a simple model for Power MOSFET.
* The parameters modeled are
* - RDSon,
* - Input Capacitance,
* - Reverse capacitance,
* - Output capacitance,
* - Switching point voltage (Gate voltage where the FET starts switching),
* - Gate Resistance
C_C1         S Da  {Coss} IC=0
R_R1         Da D  10
C_C2         Ga D  {Crss}  IC=0
R_R2         G Ga {RG}
C_C3         Ga S  {Ciss} IC=0
D_D1         S Db Dbreak
R_R3         Db D 1m
S_switchM         D S Ga S _switchM
RS_switchM         Ga S 100Meg
.MODEL         _switchM VSWITCH Roff=100e6 Ron={RDSON} Voff=1.1 Von={VSP}
.model Dbreak D Is=1e-14 Cjo=.1pF Rs=.01
.ENDS POWERMOS
*$
.MODEL DIODE D
+ RS=.5
+ CJO=100.00E-15
+ M=.3333
+ VJ=.75
+ ISR=100.00E-12
+ BV=100
+ IBV=100.00E-6
+ TT=5.0000E-9
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT RVAR 101 102 201 202 PARAMS: RREF=1
* nodes : 101 102 : nodes between which variable resistance is placed
* 201 202 : nodes to whose voltage the resistance is proportional
* parameters : rref : reference value of the resistance
rin 201 202 1G; input resistance
r 301 0 {rref}
fcopy 0 301 vsense 1; copy output current thru Z
eout 101 106 poly(2) 201 202 301 0 0 0 0 0 1; multiply VoverZ with Vctrl
vsense 106 102 0; sense iout
.ENDS RVAR
*$
.SUBCKT D_D1 1 2
D1 1 2 DD1
.MODEL DD1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
.ENDS D_D1
*$
.SUBCKT NOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR2_BASIC_GEN
*$
